US06352989B1
6,7-Dimethoxy-2-ethylamino-4-(3-nitrophenyl)quinazoline
Starting from 500 mg 2-chloro-6,7-dimethoxy-4-(3-nitrophenyl)quinazoline and 1.18 g ethylamine hydrochloride, 183 mg of the title compound was obtained as yellow crystals in the same manner as in Production Example 4.

reactant | 2-chloro-6,7-dimethoxy-4-(3-nitrophenyl)quinazoline | 500 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=CC=C1)[N+](=O)[O-])OC)OC | C16H12ClN3O4
reactant | ethylamine hydrochloride | 1.18 g | Cl.C(C)N
product | 6,7-Dimethoxy-2-ethylamino-4-(3-nitrophenyl)quinazoline | 183 mg | COC=1C=C2C(=NC(=NC2=CC1OC)NCC)C1=CC(=CC=C1)[N+](=O)[O-] | C18H18N4O4
